US05770378
The title compound was synthesized in a manner similar to that of compound 101b except 3,4,5,6,7,8-hexahydro-2,2,5,5,8,8-hexamethylnaphtho(2,3-b)-1,2-pyran-4-one (structure 1) was employed as the starting ketone. The synthesis of the pyran-4-one is detailed here. Aluminum trichloride (25 g, 0.18M) was added in portions to a solution of phenol (49.5 g, 0.52M) and 2,5-dichloro-2,5-dimethylhexane (101.0 g, 0.55M) in dichloromethane (700 ml). The reaction mixture was allowed to stir at 25°-40° C. for 2 h, then the dark red mixture was poured onto ice. Aqueous work up (EtOAc extraction) gave 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-ol as a white solid, which was recrystallized from hexane to give colorless needles (84.8 g, 0.42 moles, 80%): 1H NMR (400 MHz, CDCl3) δ 7.17 (d, 1H), 6.78 (d, 1H), 6.62 (dd, 1H), 4.55 (s, 1H), 1.65 (s, 4H), 1.25 (s, 12H). The hydroxynaphthalene (19.1g, 93.6 mmol) was treated dropwise with acetyl chloride (7.7 g, 98.2 mmol) in 1,2-dichloroethane (250ml) at 0° C. After completion of the addition, aluminum chloride (10 g, 75.2 mmol) was added in portions over 5 min. The mixture was refluxed for 10 h, then stirred at 25° C. for 8 h. GLC analysis indicated the desired keto-phenol was present in 98.6% purity. The reaction mixture was poured onto ice and aqueous work up (EtOAc extract) gave a brown-black solid, which was dissolved in hot methanol, filtered, and concentrated to give a brown viscous semi-solid. Flash chromatography (15% EtOAc/hexane) gave 1-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)ethanone as a light yellow solid. Recrystallization from hexane afforded white crystals (15.2 g, 61.8 mmol, 66%): 1H NMR (400 MHz, CDCl3) δ 7.63 (s, 1H,), 6.9 (s, 1H), 2.61 (s, 3H), 1.67 (s, 4H), 1.29 (s, 6H), 1.27 (s, 6H).

reactant | hydroxynaphthalene | 93.6 mmol, 19.1g | OC1=CC=CC2=CC=CC=C12 | C10H8O
reactant | acetyl chloride | 98.2 mmol, 7.7 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 75.2 mmol, 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | keto-phenol | O=C1C(C=CC=C1)O | C6H6O2
reactant | 1,2-dichloroethane | 250ml | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)ethanone | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C16H22O2
